US08242280B2
Step 1: Synthesis of (3-Bromo-phenyl)-methoxy-acetic acid
To a solution of 3-Bromomandelic acid ethyl ester (0.5 g, 2.2 mmol) in THF (5 mL) at 0° C. was added sodium hydride (352 mg, 60% in mineral oil, 8.8 mmol) and the resulting mixture was stirred at 0° C. for 15 minutes. Methyl iodide (1.9 g, 13.2 mmol) was added and the resulting mixture was stirred at 0° C. for 10 minutes and warmed to room temperature for 15 minutes. Saturated sodium chloride (10 mL) was added and 1 N hydrochloric acid was added to adjust the pH to 4. The resulting mixture was extracted with ethyl acetate (5 mL×4) and the combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue (0.43 g, 80%) was used in next step without further purification. MS: m/z 245 (M+H+).

reactant | 3-Bromomandelic acid ethyl ester | 2.2 mmol, 0.5 g | C(C)OC(C(O)C1=CC(=CC=C1)Br)=O | C10H11BrO3
reactant | sodium hydride | 8.8 mmol, 352 mg | [H-].[Na+]
reactant | Methyl iodide | 13.2 mmol, 1.9 g | CI | CH3I
reactant | sodium chloride | 10 mL | [Cl-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (3-Bromo-phenyl)-methoxy-acetic acid | BrC=1C=C(C=CC1)C(C(=O)O)OC | C9H9BrO3
